US04094886
In accordance with the process of Preparation 3, potassium t-butoxide (246 mg; 2.2 mmol), thiophenol (220 mg; 2 mmol) and 2-oxo-4-trimethylsilyloxy-bicyclo[3.1.0] hexane-1-carboxylic acid methyl ester (484 mg; 2 mmol) were used to obtain 470 mg of 2-oxo-5-phenylthiomethyl-4-trimethylsilyloxy-cyclopentanecarboxylic acid methyl ester as a viscous oil.

reactant | potassium t-butoxide | 2.2 mmol, 246 mg | CC(C)([O-])C.[K+]
reactant | thiophenol | 2 mmol, 220 mg | C1(=CC=CC=C1)S | C6H6S
reactant | 2-oxo-4-trimethylsilyloxy-bicyclo[3.1.0] hexane-1-carboxylic acid methyl ester | 2 mmol, 484 mg | COC(=O)C12C(CC(C2C1)O[Si](C)(C)C)=O | C11H18O4Si
product | 2-oxo-5-phenylthiomethyl-4-trimethylsilyloxy-cyclopentanecarboxylic acid methyl ester | 470 mg | COC(=O)C1C(CC(C1CSC1=CC=CC=C1)O[Si](C)(C)C)=O | C17H24O4SSi
